US04122090
18. N-Benzyl-N'-phenylurea
540 mg of benzylamine are added to 2.1 g of 3-(N-phenylcarbamyloxy)-4-hydroxy-2,5-diphenylthiophene-1,1-dioxide in 20 ml of ethyl acetate. The solution is boiled under reflux for 1 hour and then washed three times with 25 ml of concentrated aqueous NaHCO3 solution and three times with 20% strength aqueous citric acid solution. The wash liquors are extracted with ethyl acetate and the combined organic phases are dried over magnesium sulfate. After evaporating the filtrate, the crystalline residue is recrystallized from dilute ethanol.

reactant | benzylamine | 540 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-(N-phenylcarbamyloxy)-4-hydroxy-2,5-diphenylthiophene-1,1-dioxide | 2.1 g | C1(=CC=CC=C1)NC(=O)OC1=C(S(C(=C1O)C1=CC=CC=C1)(=O)=O)C1=CC=CC=C1 | C23H17NO5S
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | N-Benzyl-N'-phenylurea | C(C1=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C14H14N2O
